US05206257
A mixture of 2-(2,6-dichloro-4-trifluoromethylphenyl)-4,5-dicyanoimidazole (3.3 g, 0.01 mol) and potassium hydroxide (85%, 1.64 g, 0.025 mol) in ethanol (20 ml) and water (2 ml) was heated at reflux for 3.5 hours. After cooling the mixture was poured into water (100 ml) and acidified to pH1 by the addition of concentrated hydrochloric acid. The precipitated solid was filtered off and dried at 80° C. and 10 mm Hg to give 2-(2,6-dichloro-4-trifluoromethylphenyl)-imidazole-4,5-dicarboxamide (0.6 g), m.p. 306°-308° C., as an off white solid.

reactant | 2-(2,6-dichloro-4-trifluoromethylphenyl)-4,5-dicyanoimidazole | 0.01 mol, 3.3 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1NC(=C(N1)C#N)C#N | C12H3Cl2F3N4
reactant | potassium hydroxide | 0.025 mol, 1.64 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 2-(2,6-dichloro-4-trifluoromethylphenyl)-imidazole-4,5-dicarboxamide | 0.6 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)C=1NC(=C(N1)C(=O)N)C(=O)N | C12H7Cl2F3N4O2
